US07208145B2
Formation of 2-benzyloxy-1-propanol
A solution of ethyl 2-benzyloxylactate (9.5 g, 45.6 mmole) in anhydrous tetrahydrofuran (30 mL) was added dropwise during 30 minutes to a stirred solution of lithium aluminum hydride (1.06 g, 28 mmole) in anhydrous tetrahydrofuran (56 mL) at room temperature under argon atmosphere. Next, the mixture was stirred for 3 hours at 60° C. After cooling to 30° C., freshly prepared saturated solution of sodium sulfate (10 mL) was slowly added. The mixture was filtered and the solvent was distilled under reduced pressure. The residue was dissolved in dichloromethane (100 mL) and the solution was dried with anhydrous magnesium sulfate. The solvent then was distilled under reduced pressure. The residue was subjected to fractional vacuum distillation giving 6.2 g of colorless liquid product. NMR (d6-DMSO): 1.90 ppm (d, —CH3, 3H), 3.20–3.50 ppm (bm, —CH— and —CH2—, 3H), 4.53 ppm (s, —CH2—, 2H), 4.63 ppm (t, —OH, 1H), 7.33 ppm (m, 5H).

reactant | ethyl 2-benzyloxylactate | 45.6 mmole, 9.5 g | C(C1=CC=CC=C1)OC(C(=O)OCC)(O)C | C12H16O4
reactant | lithium aluminum hydride | 28 mmole, 1.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | 10 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 56 mL | O1CCCC1 | C4H8O
product | 2-benzyloxy-1-propanol | 6.2 g | C(C1=CC=CC=C1)OC(CO)C | C10H14O2
